US05739129
2-(2-Amino-4-fluoro-phenylamino)-N-isopropyl-N-(4-methoxy-phenyl)-acetamide
A solution of 30 mL ethyl acetate, 175 mL ethanol, and 2.50 g of 2-(4-Fluoro-2-nitrophenylamino)-N-isopropyl-N-(4-methoxy-phenyl)-acetamide (6.92 mmol) was combined with 0.25 g of palladium on carbon (10 wt %) and hydrogenated under a hydrogen balloon over 16 hrs. The reaction mixture was filtered and evaporated in vacuo to provide 1.91 g of the title compound as a solid. 1H NMR (300 MHz, CDCl3) d 7.03 (m, 2H), 6.94 (m, 2H), 6.36 (m, 3H), 4.99 (m, 1H), 4.37 (b, 3H), 3.86 (s, 3H), 3.39 (s, 2H), 1.07 (d, 6H, J=6.8); low resolution MS (FAB)m/e 332 (MH+).

reactant | ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
reactant | 2-(4-Fluoro-2-nitrophenylamino)-N-isopropyl-N-(4-methoxy-phenyl)-acetamide | 6.92 mmol, 2.50 g | FC1=CC(=C(C=C1)NCC(=O)N(C1=CC=C(C=C1)OC)C(C)C)[N+](=O)[O-] | C18H20FN3O4
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | 0.25 g | [Pd] | Pd
solvent | ethanol | 175 mL | C(C)O | C2H6O
product | 2-(2-Amino-4-fluoro-phenylamino)-N-isopropyl-N-(4-methoxy-phenyl)-acetamide | 1.91 g | NC1=C(C=CC(=C1)F)NCC(=O)N(C1=CC=C(C=C1)OC)C(C)C | C18H22FN3O2
